* P0.1 — DCSFQ behavior: sustained current (150ps hold) — edge vs level trigger
.include ../../../circuits/models/jjmit.cir
.include ../../../circuits/standard/DCSFQ.cir

.param IIN=68.4u

XDCSFQ IN1 OUT1 THmitll_DCSFQ
R_LOAD OUT1 0 10
I_IN 0 IN1 pwl(0 0 10p 0 12p IIN 160p IIN 165p 0)

.tran 0.1p 250p
.print V(OUT1) P(B1|XDCSFQ) P(B2|XDCSFQ) P(B3|XDCSFQ)
.end
